US07622583B2
4-Chloro-N-[5-chloro-2-(4-oxo-3,4-dihydro-phthalazin-1-yl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide
A mixture of 2-[5-Chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carbonyl]-benzoic acid (18 mg, 0.0347 mmol) and 2.3 mg of hydrazine hydrate in 1.0 ml of ethanol was refluxed for 4 hours. After cooled to room temperature the mixture was concentrated and the residue was purified via preparative TLC to afford 12 mg of title compound as a white powder. MS: (M+H)/z =515.2.

reactant | 2-[5-Chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carbonyl]-benzoic acid | 0.0347 mmol, 18 mg | ClC=1C=C(C(=NC1)C(=O)C1=C(C(=O)O)C=CC=C1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C20H11Cl2F3N2O5S
reactant | hydrazine hydrate | 2.3 mg | O.NN
solvent | ethanol | 1.0 ml | C(C)O | C2H6O
product | 4-Chloro-N-[5-chloro-2-(4-oxo-3,4-dihydro-phthalazin-1-yl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | 12 mg | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C1=NNC(C2=CC=CC=C12)=O)C(F)(F)F | C20H11Cl2F3N4O3S
